US09056859B2
To a solution of 6-bromo-5-methoxy-3,4-dihydro-1H-isochromene-1-carbaldehyde (230 mg, 0.85 mmol) in 10 mL of DCM was added Boc-piperazine (189 mg, 1.02 mmol) and NaBH(OAc)3 (720 mg, 3.4 mmol), and the mixture was stirred at room temperature overnight. The reaction was diluted with DCM, and washed with brine. The organic layer was dried over anhydrous Na2SO4 and concentrated. The residue was purified by prep-TLC to give tert-butyl 4-[(6-bromo-5-methoxy-3,4-dihydro-1H-isochromen-1-yl)methyl]piperazine-1-carboxylate.

reactant | 6-bromo-5-methoxy-3,4-dihydro-1H-isochromene-1-carbaldehyde | 0.85 mmol, 230 mg | BrC=1C(=C2CCOC(C2=CC1)C=O)OC | C11H11BrO3
reactant | Boc-piperazine | 1.02 mmol, 189 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | NaBH(OAc)3 | 3.4 mmol, 720 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-[(6-bromo-5-methoxy-3,4-dihydro-1H-isochromen-1-yl)methyl]piperazine-1-carboxylate | BrC=1C(=C2CCOC(C2=CC1)CN1CCN(CC1)C(=O)OC(C)(C)C)OC | C20H29BrN2O4
